US04986846
3.5 g of hydroxylamine hydrochloride were added to 100 ml of a 1:1 mixed solution of water and methanol containing 3.5 g of potassium carbonate at 0° C. The solution was stirred at 0° C. for 10 minutes. At 0° C., 13.0 g of 2-(4,6-dimethoxy-2-pyrimidinyloxy)benzaldehyde were added to the reaction mixture. The resulting mixture was stirred at room temperature for 1 hour and then warmed at 60° C. for 1 hour. After the reaction mixture was allowed to cool down, it was poured into water, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel chromatography (developer: n-hexane:ethyl acetate=5:1) to obtain 7.7 g of 2-(4,6-dimethoxy-2-pyrimidinyloxy)benzaldoxime.

reactant | hydroxylamine hydrochloride | 3.5 g | Cl.NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(4,6-dimethoxy-2-pyrimidinyloxy)benzaldehyde | 13.0 g | COC1=NC(=NC(=C1)OC)OC1=C(C=O)C=CC=C1 | C13H12N2O4
solvent | water | O | H2O
solvent | methanol | 3.5 g | CO | CH4O
product | 2-(4,6-dimethoxy-2-pyrimidinyloxy)benzaldoxime | 7.7 g | COC1=NC(=NC(=C1)OC)OC1=C(C=NO)C=CC=C1 | C13H13N3O4
